US20010041700A1
(e) N-(1-Carbamoyl-3-piperidin-1-yl-propyl)-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide
To 2-(2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyrylamino)-4-piperidin-1-yl-butyric acid benzyl ester (0.10 g, 0.18 mmol) was added NH3/MeOH (2.0 M, 10 mL) in a sealed tube and the mixture was stirred at room temperature for 3 days. The solvent was evaporated to give the title compound in 50% yield.

reactant | 2-(2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyrylamino)-4-piperidin-1-yl-butyric acid benzyl ester | 0.18 mmol, 0.10 g | C(C1=CC=CC=C1)OC(C(CCN1CCCCC1)NC(C(CC(=O)N1CCOCC1)CC1CCCCC1)=O)=O | C31H47N3O5
reactant | NH3 MeOH | 2.0 M, 10 mL | N.CO
product | N-(1-Carbamoyl-3-piperidin-1-yl-propyl)-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide | 50% yield | C(N)(=O)C(CCN1CCCCC1)NC(C(CC(=O)N1CCOCC1)CC1CCCCC1)=O | C24H42N4O4
